US05521179
2-[3-(3-Acetylaminophenylsulfonylamino)-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide.
Using a procedure similar to that described in Example 197.1., except replacing trifluoroacetic anhydride with acetic anydride, 2-[3-(3-aminophenylsulfonylamino)-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide was converted into the title compound. Chromatography solvent: dichloromethane:methanol (35:1); TLC: Rf =0.24, dichloromethane:methanol (20:1); NMR (DMSO/D2O): 8.22 (s,1) 7.73 (d,1), 7.60 (d,1), 7.5 (br m, 7), 6.16 (d,1), 4.40 (m,2), 4.02 (d,1), 2.12 (m,1), 2.09 (s,3), 0.80 (d,2); MS: m/z=593(M+1).

reactant | acetic | CC(=O)OCC1=C2C=CC=CC2=C(C3=CC=CC=C31)COC(=O)C | C20H18O4
reactant | 2-[3-(3-aminophenylsulfonylamino)-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | NC=1C=C(C=CC1)S(=O)(=O)NC=1C(N(C(=CC1)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O | C25H25F3N4O5S
product | 2-[3-(3-Acetylaminophenylsulfonylamino)-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | C(C)(=O)NC=1C=C(C=CC1)S(=O)(=O)NC=1C(N(C(=CC1)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O | C27H27F3N4O6S
